US07741326B2
4-(3-Benzyl-2-carbamoyl-5-methyl-benzofuran-7-yl)-piperazine-1-carboxylic acid tert-butyl ester was deprotected using ethanolic HCl, following the procedure of step 4 of Example 2, to provide 3-benzyl-5-methyl-7-piperazin-1-yl-benzofuran-2-carboxylic acid amide as a hydrochloride salt, (M+H)+ 350.

reactant | 4-(3-Benzyl-2-carbamoyl-5-methyl-benzofuran-7-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=2C(=C(OC21)C(N)=O)CC2=CC=CC=C2)C | C26H31N3O4
reactant | HCl | Cl | ClH
product | 3-benzyl-5-methyl-7-piperazin-1-yl-benzofuran-2-carboxylic acid amide | C(C1=CC=CC=C1)C1=C(OC2=C1C=C(C=C2N2CCNCC2)C)C(=O)N | C21H23N3O2
